US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-fluoro-3-pyridyl)piperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.38 g) was coupled to 4-(2-fluoro-3-pyridyl)piperidine (0.47 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.25 g); mp 99°-148° C. (d); MS: m/z=542(M+1); NMR(CD3OD): 2.1 (m,4), 2.5-2.6 (m,2), 2.9 (m,1), 3.1-3.2 (m,5), 3.6-3.8 (m,6), 4.8 (d,1, J=4), 6.7-7.5 (m,6), 7.8-8.1 (m,3). Analysis for C28H30Cl2N3O2F.HCl.H2O: Calculated: C, 58.35; H, 5.57, N, 7.04; Found: C, 57.99; H, 5.47; N, 7.18.

reactant | 3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.38 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC(=CC=C12)OC)=O)C | C19H17Cl2NO3
reactant | 4-(2-fluoro-3-pyridyl)piperidine | 0.47 g | FC1=NC=CC=C1C1CCNCC1 | C10H13FN2
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-fluoro-3-pyridyl)piperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.25 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)C=1C(=NC=CC1)F)C1N(C(C2=CC(=CC=C12)OC)=O)C | InChI=1S/C29H30Cl2FN3O2.ClH/c1-34-27(23-7-6-20(37-2)17-24(23)29(34)36)21(19-5-8-25(30)26(31)16-19)11-15-35-13-9-18(10-14-35)22-4-3-12-33-28(22)32;/h3-8,12,16-18,21,27H,9-11,13-15H2,1-2H3;1H
